US05736564
d) 1-(3,4-Methylenedioxyphenyl)-5-prop-1-yloxy-3-oxo-indane
To a solution of benzyl-(1RS ,2SR)-(3,4-methylenedioxyphenyl)-5-prop-1-yloxy-3-oxo-indane-2-carboxylate (8.2 g, 18.4 mmol) in warm acetic acid (130 ml), was added under argon 10% Pd/C (4.1 g) followed by 1,4-cyclohexadiene (17.4 ml, 185 mmol). The reaction was exothermic and gas evolution was observed. The reaction was allowed to stir under argon at room temperature for 2 h. The mixture was filtered through a pad of celite and concentrated in vacuo. Flash chromatography of the residue (silica gel, 3:7 ethyl acetate:hexane) afforded the title compound as a pinkish solid (5.08 g, 93%).

reactant | benzyl-(1RS ,2SR)-(3,4-methylenedioxyphenyl)-5-prop-1-yloxy-3-oxo-indane-2-carboxylate | 18.4 mmol, 8.2 g | C(C1=CC=CC=C1)C1(C(C(C2=CC(=CC=C12)OCCC)=O)C(=O)[O-])C1=CC2=C(C=C1)OCO2
reactant | 1,4-cyclohexadiene | 185 mmol, 17.4 ml | C1=CCC=CC1 | C6H8
solvent | acetic acid | 130 ml | C(C)(=O)O | C2H4O2
product | 1-(3,4-Methylenedioxyphenyl)-5-prop-1-yloxy-3-oxo-indane | 5.08 g, 93% | C1OC=2C=C(C=CC2O1)C1CC(C2=CC(=CC=C12)OCCC)=O | C19H18O4
